US04877858
10 drops of pyridine was added to 26.0 g of 9-decene-1-ol and the mixture was placed in an eggplant type flask. Into the flask was then dropped 24.0 g of thionyl chloride while cooling with ice. After dropping thionyl chloride, reaction was carried out for 8.5 hours at 70° C. After the reaction, the resulting reaction solution was diluted with dichloromethane and was washed with an aqueous potassium hydroxide solution. The organic phase was dried over magnesium sulfate and was then concentrated under reduced pressure. The resulting residue was purified by column chromatography to obtain 27.7 g of 10-chloro-1-decene. (Yield: 95%).

reactant | 9-decene-1-ol | 26.0 g | C(CCCCCCCC=C)O | C10H20O
reactant | thionyl chloride | 24.0 g | S(=O)(Cl)Cl | Cl2OS
catalyst | pyridine | 10 drops | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 10-chloro-1-decene | 27.7 g, Yield: 95% | ClCCCCCCCCC=C | C10H19Cl
